US08212041B2
3-methoxy-6-(1-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline
To a 5 ml CEM microwave tube was added tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate (0.130 g, 0.45 mmol), 1-(6-phenylpyridazin-3-yl)hydrazine (0.17 g, 0.90 mmol), HYDROCHLORIC ACID (0.11 ml, 1.4 mmol), and water (0.2 mL) as solvent. The vial was sealed and first heated at 90° C. for 30 min then placed into CEM microwave for 15 min. at 140° C., with 100 Watts of power via Powermax. The reaction mixture was adjusted the pH to 7 by adding 5 N NaOH and the solid was collected by filtration. The brown ppt. was dissolved in DCM. The organic was washed with water, dried over MgSO4, and removed solvent in vacuo. The crude product was purified using SiO2 chromatography (Teledyne Isco RediSep®, P/N 68-2203-027, 40 g SiO2, DCM:MeOH=97%:3%, Flow=40 mL/min) to afford the desired product as light yellowish solid. MS m/z: 382.3 (M+H). Calc'd. for C23H19N50—381.43.

reactant | tert-butyl 2-(3-methoxyquinolin-6-yl)propanoate | 0.45 mmol, 0.130 g | COC=1C=NC2=CC=C(C=C2C1)C(C(=O)OC(C)(C)C)C | C17H21NO3
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 0.90 mmol, 0.17 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | HYDROCHLORIC ACID | 1.4 mmol, 0.11 ml | Cl | ClH
reactant | NaOH | 5 N | [OH-].[Na+]
solvent | water | 0.2 mL | O | H2O
product | 3-methoxy-6-(1-(6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline | COC=1C=NC2=CC=C(C=C2C1)C(C)C1=NN=C2N1N=C(C=C2)C2=CC=CC=C2 | C23H19N5O
